US04382943
2,3-Dihydro-7-{3-[4-(pyridine-3-carboxamido)-piperidino]propoxy}-cyclopenta[c][1]benzopyran-4(1H)-one
1.3 ml. (0.01 mole) Isobutyl chloroformate, dissolved in 10 ml. dichloromethane, is added dropwise at -5° C. to -10° C. to a mixture of 1.23 g. (0.01 mole) nicotinic acid, 40 ml. dichloromethane and 1.4 ml. triethylamine. After stirring the reaction mixture for 15 minutes at -10° C., a slurry of 4.15 g. (0.01 mole) 7-[3-(4-aminopiperidino)-propoxy]-2,3-dihydrocyclopenta[c][1]benzopyran-4(1H)-one dihydrochloride in 30 ml. dichloromethane and 2.8 g. triethylamine is added thereto and the reaction mixture is further stirred for 30 minutes at -10° C., washed with water, mixed with an excess of ethereal hydrogen chloride solution, filtered and the precipitate obtained taken up in water and rendered alkaline with an aqueous solution of sodium hydroxide. There are thus obtained 2.8 g. (62% of theory) of the desired compound; m.p. 199°-200° C.

reactant | Isobutyl chloroformate | 0.01 mole | ClC(=O)OCC(C)C | C5H9ClO2
reactant | nicotinic acid | 0.01 mole | C(C1=CN=CC=C1)(=O)O | C6H5NO2
reactant | 7-[3-(4-aminopiperidino)-propoxy]-2,3-dihydrocyclopenta[c][1]benzopyran-4(1H)-one dihydrochloride | 0.01 mole | Cl.Cl.NC1CCN(CC1)CCCOC1=CC2=C(C3=C(C(O2)=O)CCC3)C=C1
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2,3-Dihydro-7-{3-[4-(pyridine-3-carboxamido)-piperidino]propoxy}-cyclopenta[c][1]benzopyran-4(1H)-one | N1=CC(=CC=C1)C(=O)NC1CCN(CC1)CCCOC1=CC2=C(C3=C(C(O2)=O)CCC3)C=C1 | C26H29N3O4
